US05300642
9,9-Bis(4-pyridinylmethyl)-2-bromofluorene dihydrochloride
The title compound was prepared following the procedure of Example 5 from 1.0 g (4.08 mmole) of 2-bromofluorene, 1.5 g of 4-picolylchloride hydrochloride, 100 mg of cetyl tri-n-butyl phosphonium bromide, 20 ml of 50% sodium hydroxide solution, and 20 ml toluene by reaction at 50° for 1 hr. The product was chromatographed (silica, CH2Cl2 /CH3OH, 100:1), m.p. (dihydrochloride) >300° NMR (200 MHz,CDCL3) δ: 3.39(dd,4H), 6.48(d,4H), 7.10-7.67 (m,7H-arom.), 8.12(d,J=5.7 Hz,4H). HRMS calculated for C25H19BrN2 : 426.0758 Found: 426.0758

reactant | 2-bromofluorene | 4.08 mmole, 1.0 g | BrC1=CC=2CC3=CC=CC=C3C2C=C1 | C13H9Br
reactant | 4-picolylchloride hydrochloride | 1.5 g | Cl.N1=CC=C(C=C1)CCl
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
catalyst | cetyl tri-n-butyl phosphonium bromide | 100 mg | [Br-].C(CCCCCCCCCCCCCCC)[P+](CCCC)(CCCC)CCCC
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 9,9-Bis(4-pyridinylmethyl)-2-bromofluorene dihydrochloride | Cl.Cl.N1=CC=C(C=C1)CC1(C2=CC=CC=C2C=2C=CC(=CC12)Br)CC1=CC=NC=C1 | InChI=1S/C25H19BrN2.2ClH/c26-20-5-6-22-21-3-1-2-4-23(21)25(24(22)15-20,16-18-7-11-27-12-8-18)17-19-9-13-28-14-10-19;;/h1-15H,16-17H2;2*1H
